US07919506B2
Step E: Preparation of [2-(cyclohexyl-methoxy-methyl)-5-trifluoromethyl-benzyl]-(2-methyl-2H-tetrazol-5-yl)-amine
A solution of 2-(cyclohexyl-methoxy-methyl)-5-trifluoromethyl-benzaldehyde (90 mg, 0.30 mmol) and 2-methyl-2H-tetrazol-5-amine (35.6 mg, 0.36 mol) in toluene (1.5 ml) was heated at 50° C. for overnight. Solvent was removed in vacuo and reaction mixture was diluted with ethanol (2 ml) and treated with sodium borohydride (21.8 mg, 0.577 mmol) and stirred at room temperature for overnight. Reaction mixture was concentrated in vacuo and diluted with ethyl acetate (100 ml) and washed with water (30 ml). Organic layer was dried over anhydrous magnesium sulphate and concentrated in vacuo. The crude product was purified on Biotage column (12+M), eluting with 7% ethyl acetate in heptane (1 CV), 7-60% (10CV), 60% (2CV) to yield the title compound (65 mg, 58%) as a colorless oil. 1H NMR (400 MHz, CDCl3) δ ppm 1.1 (m, 4H) 1.25 (s, 2H) 1.62 (m, 3H) 1.76 (m, 1H) 1.99 (d, J=14.1 Hz, 1H) 3.16 (s, 3H) 4.13 (s, 3H) 4.2 (d, J=7.5 Hz, 1H) 4.48 (dd, J=5.4 Hz, 1H) 4.65 (dd, J=6.6 Hz, 1H) 4.93 (m, 1H) 7.47 (d, J=7.8 Hz, 1H) 7.54 (d, J=8.3 Hz, 1H) 7.67 (s, 1H). MS (ES+) Calc: 383.4, Found: 349.3 (M−34).

reactant | 2-(cyclohexyl-methoxy-methyl)-5-trifluoromethyl-benzaldehyde | 0.30 mmol, 90 mg | C1(CCCCC1)C(C1=C(C=O)C=C(C=C1)C(F)(F)F)OC | C16H19F3O2
reactant | 2-methyl-2H-tetrazol-5-amine | 0.36 mol, 35.6 mg | CN1N=C(N=N1)N | C2H5N5
reactant | sodium borohydride | 0.577 mmol, 21.8 mg | [BH4-].[Na+]
solvent | toluene | 1.5 ml | C1(=CC=CC=C1)C | C7H8
product | [2-(cyclohexyl-methoxy-methyl)-5-trifluoromethyl-benzyl]-(2-methyl-2H-tetrazol-5-yl)-amine | 65 mg, 58% | C1(CCCCC1)C(C1=C(CNC=2N=NN(N2)C)C=C(C=C1)C(F)(F)F)OC | C18H24F3N5O
